US08217066B2
Step 1: 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-methyl-but-3-en-1-ol:
Prepared according to the procedure described in Example 63, Step 1, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 3-bromo-but-1-ene.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 3-bromo-but-1-ene | BrC(C=C)C | C4H7Br
product | 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-methyl-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)C)O | C15H16BrNO2
